US06075029
A solution of furfurylurea (7.0 g, 50.0 mmol), cyanoacetic acid (4.7 g, 55.0 mmol), and acetic anhydride (50 ml) was heated to 95° C. for 3 hours. After cooling to ambient temperature the solution was concentrated under reduced pressure to give a crude intermediate that was stirred with water (30 ml). After concentrating, the residue was dissolved in water (100 ml) and treated with a 50% aqueous sodium hydroxide solution (10 ml) to give a pH of 13. This solution was heated at 70° C. for 30 minutes, cooled and filtered. The wet solids were stirred in boiling ethanol for 15 minutes, cooled to ambient temperature and filtered. The filtrate was evaporated under reduced pressure to give 6-amino-1-furfuryluracil (5.5 g, 53% yield) as an orange solid.

reactant | furfurylurea | 50.0 mmol, 7.0 g | C(C1=CC=CO1)NC(=O)N | C6H8N2O2
reactant | cyanoacetic acid | 55.0 mmol, 4.7 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 30 ml | O | H2O
product | 6-amino-1-furfuryluracil | 5.5 g, 53% yield | NC1=CC(NC(N1CC1=CC=CO1)=O)=O | C9H9N3O3
